US08202873B2
Stir together 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (920 mg, 3.00 mmol), 4-(hydroxy)benzene boronic acid (497 mg, 3.6 mmol), potassium carbonate (996 mg, 7.2 mmol), tetrakis(triphenylphosphine)palladium(0) (0.018 g, 0.015 mmol) and water (6 mL) in N,N-dimethylacetamide (12 mL) at 120° C. for 5 hr. Cool to room temperature, add water (20 mL), extract with DCM (3×30 mL) and pass through an IST Phase Separator Frit®. Purify using SCX chromatography, eluting with 2.5 M ammonia in methanol and further purify using silica gel chromatography (eluting with 5:95 to 15:85 methanol:DCM). Concentrate and dry in a vacuum oven over night to give 4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenol as a light yellow powder (936 mg, 86%). MS (ES): m/z=365 [M+H].

reactant | 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 3.00 mmol, 920 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | C14H19ClN6
reactant | 4-(hydroxy)benzene boronic acid | 3.6 mmol, 497 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | potassium carbonate | 7.2 mmol, 996 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 6 mL | O | H2O
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylacetamide | 12 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.015 mmol, 0.018 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenol | 936 mg, 86% | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)O | C20H24N6O
